US07361658B2
Potassium carbonate and 3-(tert-butyldimethylsilyloxy)propyl bromide were added to a DMF solution of ethyl 3-chloro-5-fluoro-4-hydroxybenzoate, and the mixture was stirred at 50° C. to obtain ethyl 4-[3-(tert-butyldimethylsilyloxy)propoxy]-3-chloro-5-fluorobenzoate.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(tert-butyldimethylsilyloxy)propyl bromide | [Si](C)(C)(C(C)(C)C)OCCCBr | C9H21BrOSi
reactant | ethyl 3-chloro-5-fluoro-4-hydroxybenzoate | ClC=1C=C(C(=O)OCC)C=C(C1O)F | C9H8ClFO3
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 4-[3-(tert-butyldimethylsilyloxy)propoxy]-3-chloro-5-fluorobenzoate | [Si](C)(C)(C(C)(C)C)OCCCOC1=C(C=C(C(=O)OCC)C=C1F)Cl | C18H28ClFO4Si
